US07060827B2
In a like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-aminobiphenyl were reacted to provide N2,N4-Bis(3-phenylphenyl)-2,4-pyrimidinediamine. LCMS: purity: 98%; MS (m/e): 415(MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-aminobiphenyl | NC=1C=C(C=CC1)C1=CC=CC=C1 | C12H11N
product | N2,N4-Bis(3-phenylphenyl)-2,4-pyrimidinediamine | C1(=CC=CC=C1)C=1C=C(C=CC1)NC1=NC=CC(=N1)NC1=CC(=CC=C1)C1=CC=CC=C1 | C28H22N4
